Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm here for stress and anxiety"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ yo M with no PMH or PPHx who was BIBA after his
father was concerned for bizarre behavior and disorganized
thought process with concern for delusional thinking as well as
bizarre posturing in the emergency room concerning for new-onset
psychosis and catatonia.

On interview today, patient reports that he came to the hospital
for stress and anxiety, a break-up last week, and "being 
involved
in a lot of organizations" which he is unable to elaborate on.
Throughout the interview, patient has marked difficulty with
open-ended questions, taking long pauses, and saying "um" dozens
of times without being able to express a full answer. He is
unable to explain how or why he came to the emergency room for
evaluation. He first describes that he has been "hooking up with
a lot of people". "I end up here because...I end up here
because...I ended up here because". Then states he came with his
parents and it was his dad's idea to come to the emergency
because "he really loves me" and "I wasn't really myself". 

He then goes on to describe that during his first year at
___ he went on an alternative ___ break trip where he
kissed a girl in whom he was not interested though she was
interested in him. He expresses guilt regarding this stating he
knows his actions were wrong. 

Reports that he recently has wanted to hurt himself but is 
unable
to elaborate. States he thinks about failing and letting people
down. Denies intent/plan. Denies current SI.  

He reports he is a ___ year undergraduate at ___ studying ___ and ___. He reports that
school is going well. A moment later states school is not going
well, states he has not been doing his work and "I haven't 
seeked
out resources at school". When asked to describe a timeline of
this, states "I had trouble in high school". 

Reports he broke with with his boyfriend of one month last week
and reports that this was not mutual. 

All of a sudden patient asks, "can I just turn myself in for
rape?" When asked if he has raped someone, he states "I didn't
realize that even if you're not having sex with your [penis] it
is rape". When asked to elaborate, patient is unable to complete
a sentence. When asked what he believes the definition of rape
is, states "unwanted sexual contact where the vagina or penis is
touched". When asked if he has been involved in such an act he
reports he was the victim of unwanted sexual contact, though
describing that a girl he kissed ___ years ago (see above)
touched him inappropriately. Then again asks "can I turn myself
in". Patient states he is romantically/sexually interested in 
men
only. 

Patient is unable to tolerate a complete psychiatric review of
symptoms as his speech is slowed with prolonged pauses. He 
denies
SI, HI, AH. When asked about VH reports that he sees stars when
he has a bowel movement.

During some cognitive testing questions, patient suddenly asks
"Is there a police officer here so I can discharge?" and
continues asking if he can turn himself in to the police for
being a sexual offender. Reassured that this is something that 
we
can discuss further with the treatment team, though the security
officers on the unit cannot discharge him. 

Per ED Initial Consult Note:

"Collateral from father 
___ (___)
Father states the patient started acting bizarrely since about a
week ago, he states his some started making strange statements
while he studies for his complex psychology final. He started
"diagnosing himself" stating he was a schizophrenic, later
stating he was a narcissist and that he did not care about 
anyone
else but himself. A few days later he started making statements
claiming he was a sex offender, and that he needed to go to the
cops to get arrested. The father also noted that the patient had
stopped participating in normal conversation, he would speak 
only
in short sentences. Given this bizarre behavior patients father
traveled from ___ to ___ to try and help the patient
finish his semester at ___ and ___ take him back to
___ for some treatment. However his son behavior worsened
and he even went to campus police and told them he was a sex
offender and he should be arrested. The campus police noted that
there were no charged against the patient and informed him and
the school. They meet with the academic advisor earlier today,
and she noted that patient was acting bizarrely and that he
should be brought into a ED for further evaluation. The father
notes patient is usually a very talkative social person, he is
the president of the ___ club, although this recently got
dismantled by the school. He also notes that his son was trying
to break up with his partner but felt guilty with the idea of
"abandoning" the partner. He later made statements regarding how
he was a bad person, and he should be arrested for abandoning
people. 

EMS report 
___ Y/O MALE FOUND STANDING ON SCENE, ALERT, AIRWAY PATENT SKIN
WARM AND DRY. PTS FATHER ON SCENE, REQUESTING ___ BE TRANSPORTED
FOR A PSYCH EVAL. ___ INITIALLY CATATONIC, THEN ATTEMPTED TO
ANSWER QUESTIONS BUT THOUGHTS APPEARED DISORGANIZED. WHEN ASKED
THE TIME ___ RESPONDED WITH "IM GUILTY." ___ UNABLE TO ANSWER 
BASIC
QUESTIONS SUCH AS DATE AND TIME. ___ THEN HAS BRIEF MOMENTS OF
CLARITY AND WAS ABLE TO ANSWER QUESTIONS APPROPRIATELY. ___
ASSISTED TO STRETCHER AND SECURED FOR TRANSPORT. ___ DENIED SI/HI
AND FATHER DENIED ___ MAKING ANY STATEMENTS. ___ CONTINUED TO HAVE
MOMENTS OF CLARITY FOLLOWED BY EPISODES OF DISORGANIZED 
THOUGHTS,
AND CATATONIC BEHAVIOR. ___ TRANSPORTED TO ___ W/O CHANGE,
REPORT GIVEN TO ERRN."
   
ED Course:
Received Lorazepam 1 mg IV and started on Risperidone 1 mg PO 
BID
CT Head showed no acute intracranial process. 

PPH: 
Per Dr. ___ note, confirmed with patient and updated 
as
relevant:
-Diagnosis: none 
-Hospitalizations: denies 
-Current treaters and treatment: saw a therapist in ___ 
___
unable to remember their name
-___ and ECT trials: none 
-Self-injury: denies 
-Harm to others: denies 
-Access to weapons: denies 

 
Past Medical History:
None
 
Social History:
___
Family History:
Family psychiatric history: bipolar nephew and sister
SA: denies known suicidal attempts
Addictions: denies  
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T 97.9, BP 125/91, HR 100, RR 18, O2 97%

General: Appears anxious. Well-nourished, well-developed. 
Appears
stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple
Lungs: CTAB. No wheezes or crackles
CV: Tachycardic (HR 100s-110s), regular rhythm, no
murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions.

NEUROLOGIC EXAMINATION:
Cranial Nerves:
-PERRL, EOMI, face symmetric to smile, eyebrow raise, cheek 
puff,
hearing grossly intact, tongue/uvula midline, shoulder shrug
intact, no dysrthria

- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor. No waxy flexibility.
- Strength: full power ___ throughout. 
- Coordination: Not formally tested.
- Sensation: Intact to light touch throughout. 
- Gait: Steady. Normal stance and posture. No truncal ataxia.

COGNITIVE EXAM: 
- Wakefulness/alertness: awake and alert
- Attention: DOWB intact though slowed
- Orientation: oriented to person, time, place though not to
situation
- Executive function (go-no go, Luria, trails, FAS): not tested
- Memory: recall ___ objects in 5 minutes, ___ with cues. When
asked to calculate $1.75 in quarters, states "I already did that
question" (had been done in ED per note)
- Fund of knowledge: knows first, current, and elected 
presidents
- Calculations: correctly states 22 nickels in $1.10
- Abstraction: watch/ruler = numbers
- Visuospatial: not assessed
- Speech: Paucity of spontaneous speech, slowed rate with long
pauses, normal volume, says "um" over and over, repeats phrases
over and over
- Language: fluent ___

MENTAL STATUS EXAM:
- Appearance: Young Caucasian M, appears stated age, wearing
yarmulke
- Behavior: Fair eye contact, follows commands, psychomotor
retardation noted
- Mood: "hasn't really fluctuated" 
- Affect: Flat
- Thought Process: Thought blocking, paucity of spontaneous
speech. At times linear, tangential at others. 
- Thought Content: Denies SI, HI, AH. Denies IoR. ? delusion
regarding being guilty of raping a girl
- Judgment/Insight: Poor/poor

 
Pertinent Results:
___ 01:35AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:35AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:10AM   GLUCOSE-101* UREA N-18 CREAT-1.0 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-27 ANION GAP-18
___ 12:10AM   TSH-2.1
___ 12:10AM   GLUCOSE-101* UREA N-18 CREAT-1.0 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-27 ANION GAP-18
___ 12:10AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:10AM   WBC-10.8* RBC-5.34 HGB-15.9 HCT-45.3 MCV-85 
MCH-29.8 MCHC-35.1 RDW-12.5 RDWSD-38.1
___ 12:10AM   NEUTS-72.4* ___ MONOS-6.5 EOS-0.6* 
BASOS-0.6 IM ___ AbsNeut-7.81* AbsLymp-2.12 AbsMono-0.70 
AbsEos-0.07 AbsBaso-0.06

CT Head:
1. No acute intracranial abnormality. 
2. No evidence acute intracranial hemorrhage. 
3. Minimal paranasal sinus disease as described.
 
Brief Hospital Course:
GLOBAL ASSESSMENT:
___ is a ___ M w/ no past medical or psych history who was
brought to ___ ED by ambulance after his father became 
concerned about his bizarre behavior and disorganization. Pt 
expressed depressive symptoms and SI in
ED and exam was concerning for disorganized thought process, 
ruminations, possible delusions regarding raping someone, 
thought blocking, flat affect, and PMR all concerning for new 
onset of psychosis, with current differential including mood 
disorder with psychotic features, schizophrenia, schizoaffective 
disorder. 

Patient responded well to hospitalization and the combination of 
medication management (Risperdal for psychosis and Ativan for 
anxiety) and individual/group/milieu therapy. His speech became 
more fluent and appropriately paced and he had dramatic 
improvement in his thought blocking, paranoia, and ruminative, 
as well as improvement in his mood and hopelessness. By time of 
discharge, he was euthymic and no longer have distorted thought 
content or process. He had gained insight into his paranoid 
delusions and the psychosocial factors contributing to his 
decompensation. In addition, he was no longer feeling hopeless 
or having suicidal ideation and was quite future oriented and 
motivated to return to school and continue engaging in 
outpatient psychiatric treatment.

MEDICATION MANAGEMENT
Pt was not at any home medications at time of admission. He was 
started on risperidone to treat his psychotic thought process 
(paranoia, rumination, thought blocking) and Ativan to treat his 
anxiety. He was stabilized at the following doses:
Risperidone 2mg BID
Ativan 0.5mg BID

Team discussed the indications for, intended benefits of, and
possible side effects and risks of Risperdal, in particular TD,
EPS, metabolic syndrome, cardiac effects, orthostatic
hypotension, and risks and benefits of possible alternatives,
including not taking the medication, with this patient.  We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about
medications with the treatment team, and I answered the 
patient's
questions.  The patient appeared able to understand and 
consented to begin the medication.

SUBSTANCE USE DISORDERS:
No active disorder, has h/o occasional alcohol and marijuana 
use.
Patient was counseled on the risks of using alcohol and 
marijuana, as well as other substances, and the potential for 
worsening of mood/anxiety/psychotic symptoms.

MEDICAL:
Patient had various GI complaints and so was offered PRN 
loperamide for diarrhea and simethicone for bloating. He also 
had vague urinary complaints, however symptoms improved and 
urine analysis and culture were unremarkable.
Patient was also screened for gonnorhea/chlamydia, and both 
tests were negative.

LEGAL/SAFETY:
Patient was initially admitted on a ___ however signed a 
conditional voluntary agreement on ___, which was 
accepted, and he remained on such for the remainder of 
hospitalization. He was also on standard Q15 minute checks and 
monitored sharps status. There were no acute behavioral/safety 
issues while pt was on unit.

COLLATERAL/FAMILY CONTACT:
Collateral was obtained from family. Social work facilitated 
ongoing contact with family to help with treatment planning and 
provide psychoeducation.
Social work was also in contact with ___ to 
discuss school re-entry.

Patient was discharged home with family and will return to 
___ for the next few weeks due to college break and see 
temporary providers there. He will then return to ___ in 
___ and team here will continue working to find pt local 
providers and be in touch with him about such resources.

RISK ASSESSMENT:
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based on his disorganized and 
paranoid thought process and suicidal ideation. Their static 
factors noted at that time include male gender, Caucasian race, 
and LGBT identity. Hospitalization worked to address modifiable 
risk factors including suicidal ideation, psychosis, lack of 
engagement with treaters, and insomnia. Pt was also noted to 
have numerous protective factors, including supportive family, 
financial resources, engagement in structured education system, 
future orientation, absence of prior suicide attempts, 
intelligence, treatment compliance, good insight/judgment. By 
time of discharge, pt was euthymic and hopeful and had linear 
thought process and absence of SI/HI/AVH and significant 
paranoia and no longer appeared to be at acute risk of harm to 
self/others and thus was safe for discharge to the community, 
with outpatient follow up. 

Overall, pt has a very good prognosis, as he responded very 
positively to a relatively short hospitalization, has gained 
insight into his illness, is treatment compliant, and has 
significant supports. He will likely benefit from ongoing 
outpatient care to help monitor for re-emergence of psychotic 
symptoms/SI and help pt cope with various psychosocial stressors 
and internal conflicts.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID 
RX *lorazepam 0.5 mg 1 tablet by mouth Twice per day Disp #*60 
Tablet Refills:*0 
2.  RisperiDONE 2 mg PO BID 
RX *risperidone 2 mg 1 tablet(s) by mouth Twice per day Disp 
#*60 Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Psychotic Episode Not otherwise specified
Mood disorder not otherwise specified

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for an acute psychotic episode. 
 
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___